US06713632B1
A solution of 4-cyanoimidazole (2 g, 21.4 mmol) in THF (25 ml) was added dropwise to a solution (68.5 mL, 68.5 mmol, 3.2 equivalents) of 1 M n-propyl magnesium bromide in THF at 0 to 10° C. under a nitrogen atmosphere. The mixture was stirred at 15 to 25° C. for 4 h. Water (20 ml) and 10% aqueous sulfuric acid solution (45 ml) were successively added dropwise, and the mixture was stirred at 1 h. A 30% aqueous sodium hydroxide solution was added dropwise to adjust the pH to 8. After partitioning, the aqueous layer was extracted with ethyl acetate (15 ml×2). The organic layer was combined, and the mixture was washed successively with saturated aqueous sodium hydrogencarbonate and saturated brine, and concentrated under reduced pressure. The concentration residue was broken up with n-hexane (12 ml), and the crystals were collected by filtration and washed with n-hexane. The crystals were dried in vacuo (40° C.) to give 1-(1H-imidazol-4-yl)-1-butanone (2.45 g, yield 83%). 1H-NMR (CDCl3): δ 0.90 (3H, t, J=7.4 Hz), 1.60 (2H, q, J=7.3 Hz), 3.34 (2H, q, J=7.1 Hz), 7.77 (1H, s), 7.85 (1H, s)

reactant | 4-cyanoimidazole | 21.4 mmol, 2 g | C(#N)C=1N=CNC1 | C4H3N3
reactant | n-propyl magnesium bromide | 68.5 mmol, 1 M, 68.5 mL, 3.2 equivalents | C(CC)[Mg]Br
reactant | sulfuric acid | 45 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | Water | 20 ml | O | H2O
product | 1-(1H-imidazol-4-yl)-1-butanone | 2.45 g, yield 83% | N1C=NC(=C1)C(CCC)=O | C7H10N2O
